US07354920B2
b) (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride
Alternatively, the following method may be used. A stainless steel Buchi hydrogenation reactor was loaded with 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol (230 g, 0.503 mole), methanol (1 L), a suspension of Pd/C (10%, 46 g, 20% loading) in methanol (500 ml), and methanol (500 ml) from equipment rinses. A solution of HCl in ethanol (1.6N, 460 ml, 0.736 mole, 1.5 eq.) was added and the reactor was pressurized with H2 (3 Bar). The reaction mixture was heated to 40° C. and stirred for 3 hours. The reaction mixture was cooled to 20° C. and flushed with N2. The catalyst was filtered off and washed with methanol (0.5 L). The filtrates were concentrated under vacuum to a yellow solid. The yield of crude title compound was 198 g (97.5%). A reactor was loaded with crude title compound (190 g, 0.47 mole) and toluene (6.65 L) under N2. The suspension was heated under reflux and toluene (150 ml) was added until all solid dissolved. The solution was stirred for 15 minutes more under reflux and then cooled slowly to 20° C. The suspension was stirred for 1 hour at 20° C. The solid was filtered, washed with toluene (680 ml), and dried at 40° C. under vacuum. The yield of pure anhydrous title compound was 158.5 g (83.4%).

reactant | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol | 0.503 mole, 230 g | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | C26H26F3NO3
reactant | HCl | Cl | ClH
reactant | ethanol | 0.736 mole, 1.6N, 460 ml, 1.5 eq. | C(C)O | C2H6O
reactant | toluene | 6.65 L | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 500 ml | CO | CH4O
catalyst | Pd/C | 46 g | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 1 L | CO | CH4O
product | (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride | 0.47 mole, 190 g | Cl.N1C[C@@H](OCC1)[C@@](CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | InChI=1S/C19H20F3NO3.ClH/c20-19(21,22)26-16-9-5-4-6-14(16)12-18(24,15-7-2-1-3-8-15)17-13-23-10-11-25-17;/h1-9,17,23-24H,10-13H2;1H/t17-,18+;/m1./s1
